US06093710
Acetic anhydride (4.1 ml) was added to a mixture of 6-ethoxycarbonyl-4-hydroxy-4,5,6,7-tetrahydrobenzo[b]thiophene (2.06 g) and pyridine (8 ml) under water cooling, and was stirred at r.t. for 2.5 hours. The reaction mixture was added into a mixture of AcOEt and water, and was adjusted to pH 1.6 with 6N HCl. The separated organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate (sat. NaHCO3 aq.), water, and brine, and dried over MgSO4, and then evaporated in vacuo to give 4-acetoxy-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene (2.36 g) as an oil.

reactant | Acetic anhydride | 4.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-ethoxycarbonyl-4-hydroxy-4,5,6,7-tetrahydrobenzo[b]thiophene | 2.06 g | C(C)OC(=O)C1CC(C2=C(SC=C2)C1)O | C11H14O3S
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl | 6N | Cl | ClH
solvent | water | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-acetoxy-6-ethoxycarbonyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 2.36 g | C(C)(=O)OC1CC(CC=2SC=CC21)C(=O)OCC | C13H16O4S
